US05945565
In a 5-liter three-necked round-bottomed flask equipped with a reflux condenser, overhead stirrer and nitrogen inlet, was placed 411 g of the previously prepared methyl 3-bromomethyl-4-nitrobenzoate, 441 g of anhydrous potassium acetate and 2 l of glacial acetic acid. The resulting mixture was refluxed for 4 hours, cooled to room temperature and stirred overnight. The solvent was removed in a rotary evaporator and the resulting light yellow solid treated with a mixture of 2 l of ethyl acetate and 1 l of water. The organic phase was separated, washed with water (3×400 mL), brine (1×400 mL) dried over anhydrous magnesium sulfate and the solvent removed using a rotary evaporator. The crude reaction mixture was triturated with hexane and filtered yielding 318 g of the expected methyl 3-acetoxymethyl-4-nitrobenzoate. This compound was used as such in the next step.

reactant | methyl 3-bromomethyl-4-nitrobenzoate | BrCC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C9H8BrNO4
reactant | potassium acetate | 441 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 2 l | C(C)(=O)O | C2H4O2
product | methyl 3-acetoxymethyl-4-nitrobenzoate | 318 g | C(C)(=O)OCC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C11H11NO6
